US09056843B2
Intermediate 3d: [4-(5-trifluoromethyl-[1,2,4]oxadiazol-3-yl)-phenyl]-acetic acid
[4-(5-Trifluoromethyl-[1,2,4]oxadiazol-3-yl)-phenyl]-acetic acid methyl ester (1.333 g, 4.66 mmol) was dissolved in THF (8.28 mL) and 4 M HCl (12.42 mL) added. The mixture was stirred at RT for 24 h. The reaction mixture was then stirred for 29 h at 60° C. The solvent was removed by rotary evaporation. To ensure complete removal of the HCl, the product was dissolved in Toluene and evaporated again 3 times. The substance was then dissolved in water:acetonitrile 1:1 and lyophilised over the weekend. For analytical purposes, a small sample was subjected to purification by reverse phase prep-HPLC (gradient elution, water/ACN both containing 0.1% TFA). Fractions containing the desired compound were combined and freeze-dried to yield the product as white salt.

reactant | [4-(5-Trifluoromethyl-[1,2,4]oxadiazol-3-yl)-phenyl]-acetic acid methyl ester | 4.66 mmol, 1.333 g | COC(CC1=CC=C(C=C1)C1=NOC(=N1)C(F)(F)F)=O | C12H9F3N2O3
reactant | HCl | 4 M, 12.42 mL | Cl | ClH
solvent | THF | 8.28 mL | C1CCOC1 | C4H8O
product | [4-(5-trifluoromethyl-[1,2,4]oxadiazol-3-yl)-phenyl]-acetic acid | FC(C1=NC(=NO1)C1=CC=C(C=C1)CC(=O)O)(F)F | C11H7F3N2O3
